US04605653
Preparation of 1-(hydroxymethyl)-4-(iminophenyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]thiazino[4,3-a]isoquinoline
3.4 g (0.01 mole) of 1-(hydroxymethyl)-4-(iminoethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]thiazino[4,3-a]isoquinoline are refluxed with 1.86 g (0.02 mole) of aniline in 30 ml of ethanol for 5 hours. The excess of ethanol and aniline is distilled off and crystallized from ethanol to yield the desired compound, melting at 187° to 189° C. Yield: 62%.

reactant | 1-(hydroxymethyl)-4-(iminoethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]thiazino[4,3-a]isoquinoline | 0.01 mole, 3.4 g | OCC1CSC(N2C1C1=CC(=C(C=C1CC2)OC)OC)CC=N | C17H24N2O3S
reactant | aniline | 0.02 mole, 1.86 g | NC1=CC=CC=C1 | C6H7N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(hydroxymethyl)-4-(iminophenyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H,4H-[1,3]thiazino[4,3-a]isoquinoline | Yield: 62% | OCC1CSC(N2C1C1=CC(=C(C=C1CC2)OC)OC)C2C(C=CC=C2)=N | C21H26N2O3S
